US09315495B2
To a solution of thiophene (1.12 mL, 14.26 mmol) in 35 mL of 9:1 tetrahydrofuran/hexamethylphosphoramide under argon at −78° C. was added n-butyllithium (6.28 mL, 2.5 M in hexanes) and the resulting solution stirred at −78° C. for 20 minutes. Isobutylbromide (1.63 mL, 15.00 mmol) was added dropwise and the resulting solution stirred while warming to room temperature over 2 h before being poured into 100 mL 1 N hydrochloric acid. Organics were extracted with hexanes (3×100 mL), washed with 0.1 N hydrochloric acid (3×50 mL), water and brine (50 mL each), dried with magnesium sulfate, filtered and concentrated to give crude 2-isobutylthiophene. Used without further purification or characterization.

reactant | thiophene | 14.26 mmol, 1.12 mL | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 2.5 M, 6.28 mL | C(CCC)[Li]
reactant | Isobutylbromide | 15.00 mmol, 1.63 mL | C(C(C)C)Br | C4H9Br
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
solvent | tetrahydrofuran hexamethylphosphoramide | 35 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
product | 2-isobutylthiophene | C(C(C)C)C=1SC=CC1 | C8H12S
